US05099019
PREPARATION A-10 4-[6-(1-Pyrrolidinyl)-2-pyridinyl]piperazine
A solution of 2,6-dichloropyridine (10 g) and piperazine (25 g) in pyridine (30 ml) is stirred at 65° for 3 h and at 20°-25° overnight. The reaction mixture is concentrated, the residue is partitioned between ether and aqueous potassium carbonate. The organic phase is separated, washed with saline, dried over sodium sulfate and concentrated. The residue is added to pyrrolidine (15 g). pyridine (100 ml) and heated at 100° for 6 days. The reaction mixture is concentrated. The residue is partitioned between methylene chloride and aqueous sodium bicarbonate. The organic phase is separated, dried and concentrated. The residue is chromatographed on silica gel, eluting with methanol/ammonium hydroxide/methylene chloride (15/1/84). The appropriate fractions are pooled and concentrated to give the title compound, NMR (CDCl3) 1.9, 2.9, 3.4, 5.75, 6.5, 7.3 δ.

reactant | 2,6-dichloropyridine | 10 g | ClC1=NC(=CC=C1)Cl | C5H3Cl2N
reactant | piperazine | 25 g | N1CCNCC1 | C4H10N2
reactant | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 4-[6-(1-Pyrrolidinyl)-2-pyridinyl]piperazine | N1(CCCC1)C1=CC=CC(=N1)N1CCNCC1 | C13H20N4
